US04213905
To a dry 100 ml three-necked flask under nitrogen is added 1-methyl-5-(p-toluoyl)pyrrole-2-acetonitrile (4.0 g, 0.0168 mole) and 30 ml of dry THF. The solution is cooled to -20° C., ethyl mercaptan (1.38 ml, 0.0180 mole) is added and hydrogen chloride is then bubbled into the reaction mixture. When the reaction mixture is saturated with HCl the temperature is raised to and maintained at 0° C. for 2.5 hrs. The reaction mixture is poured into a three-necked, 300 ml round-bottom flask, 100 ml of toluene is added and steam blown into the organic layer until the red color disappears. The toluene layer is separated and the water layer washed twice with toluene. The toluene extracts are combined, washed with brine and dried over anhydrous MgSO4. The solvent is evaporated in vacuo to yield 4.27 g (84.4%) of crude product. One recrystallization from methanol yields 2.15 g (42.5%) of ethyl 1-methyl-5-(p-toluoyl)-pyrrole-2-thiolacetate, m.p. 74° -76° C.

reactant | 1-methyl-5-(p-toluoyl)pyrrole-2-acetonitrile | 0.0168 mole, 4.0 g | CN1C(=CC=C1C(=O)C1=CC=C(C=C1)C)CC#N | C15H14N2O
reactant | ethyl mercaptan | 0.0180 mole, 1.38 ml | C(C)S | C2H6S
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | ethyl 1-methyl-5-(p-toluoyl)-pyrrole 2-thiolacetate | 2.15 g, 42.5% | C(C)C=1N(C(=CC1)C(=O)C1=CC=C(C=C1)C)C.S1C(=CC=C1)CC(=O)[O-] | InChI=1S/C15H17NO.C6H6O2S/c1-4-13-9-10-14(16(13)3)15(17)12-7-5-11(2)6-8-12;7-6(8)4-5-2-1-3-9-5/h5-10H,4H2,1-3H3;1-3H,4H2,(H,7,8)/p-1
